US06596461B1
3) Preparation of 1-(2-hydroxypropyl)-3,3,5,5-tetramethylpiperazin-2-one
Following the procedure described below in EXAMPLE 4A, step 3, 250 g (1.71 mol) of 1-(2-amino-2-methylpropylamino)propan-2-ol are reacted with 306.2 g (2.57 mol) of chloroform and 1509 ml of acetone in the presence of 410.4 g (10.26 mol) of sodium hydroxide in 410 ml of water. A yellow oil with a boiling point of 137°-140° C. at 1.1 mbar is obtained.

reactant | 1-(2-amino-2-methylpropylamino)propan-2-ol | 1.71 mol, 250 g | NC(CNCC(C)O)(C)C | C7H18N2O
reactant | chloroform | 2.57 mol, 306.2 g | C(Cl)(Cl)Cl | CHCl3
reactant | acetone | 1509 ml | CC(=O)C | C3H6O
reactant | sodium hydroxide | 10.26 mol, 410.4 g | [OH-].[Na+]
reactant | water | 410 ml | O | H2O
product | 1-(2-hydroxypropyl)-3,3,5,5-tetramethylpiperazin-2-one | OC(CN1C(C(NC(C1)(C)C)(C)C)=O)C | C11H22N2O2
